US05985884
2-[4-[2-[2-Ethyl-4methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]phenyl methyl-1,2,4-oxadiazolidine-3,5-dione Method A
To a stirred solution of N-[4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzyl]-N-hydroxyurea (346 mg, 1.0 mmol) (obtained from preparation 19) in water (2 ml) was added 1N NaOH (3 ml) followed by ethyl chloroformate (191 μl, 217 mg, 2.0 mmol) and stirred for 1 h at 30° C. The reaction mixture was diluted with water, acidified to pH 3.0 and extracted with EtOAc (3×10 ml). The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated to yield the title compound (283 mg, 76%).

reactant | N-[4-[2-[2-ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzyl]-N-hydroxyurea | 1.0 mmol, 346 mg | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(CN(C(=O)N)O)C=C1 | C17H22N4O4
reactant | NaOH | 1N, 3 ml | [OH-].[Na+]
reactant | ethyl chloroformate | 2.0 mmol, 191 μl, 217 mg | ClC(=O)OCC | C3H5ClO2
solvent | water | 2 ml | O | H2O
product | 4-[2-[2-Ethyl-4methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]phenyl methyl-1,2,4-oxadiazolidine-3,5-dione | 283 mg, 76% | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=C1)N1C(N(OC1=O)C)=O | C18H20N4O5
